US08633319B2
Intermediate 15: 1,1-Dimethylethyl (3R)-3-fluoro-3-{[(7-{1-[(methyloxy)methyl]-1H-pyrazol-4-yl}-1,6-naphthyridin-5-yl)amino]methyl}-1-piperidinecarboxylate
To 1,1-dimethylethyl (3R)-3-{[(7-chloro-1,6-naphthyridin-5-yl)amino]methyl}-3-fluoro-1-piperidinecarboxylate (650 mg, 1.646 mmol) in DME (5 ml), water (2.5 ml), ethanol (5.00 ml) was added 1-[(methyloxy)methyl]-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (1.03 g 4.33 mmol), potassium hydroxide (3.95 ml, 3.95 mmol, 1M aqueous solution) and PEPPSI (112 mg, 0.165 mmol). The reaction was refluxed at 130° C. under nitrogen for 4 nights. LCMS showed main peak as product. The reaction mixture was filtered through celite and the solvent removed. The residue was dissolved in DCM and loaded onto a 25 g silica column and purified on the SP4 eluting with a 50-100% ethyl acetate in cyclohexane gradient. Appropriate fractions were combined and the solvent removed to give a yellow oil which was dried under high vacuum overnight to give the title compound as a yellow solid/film (813 mg).

reactant | 1,1-dimethylethyl (3R)-3-{[(7-chloro-1,6-naphthyridin-5-yl)amino]methyl}-3-fluoro-1-piperidinecarboxylate | 1.646 mmol, 650 mg | ClC1=NC(=C2C=CC=NC2=C1)NC[C@]1(CN(CCC1)C(=O)OC(C)(C)C)F | C19H24ClFN4O2
reactant | 1-[(methyloxy)methyl]-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 4.33 mmol, 1.03 g | COCN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C11H19BN2O3
reactant | potassium hydroxide | 3.95 mmol, 1M, 3.95 ml | [OH-].[K+]
solvent | DME | 5 ml | COCCOC | C4H10O2
solvent | water | 2.5 ml | O | H2O
solvent | ethanol | 5.00 ml | C(C)O | C2H6O
product | 1,1-Dimethylethyl (3R)-3-fluoro-3-{[(7-{1-[(methyloxy)methyl]-1H-pyrazol-4-yl}-1,6-naphthyridin-5-yl)amino]methyl}-1-piperidinecarboxylate | 813 mg | F[C@@]1(CN(CCC1)C(=O)OC(C)(C)C)CNC1=C2C=CC=NC2=CC(=N1)C=1C=NN(C1)COC | C24H31FN6O3
